US05496927
Ac-L-proline (3.05 g, 19.41 mmol) was dissolved in drytetrahydrofuran (100 ml) under an argon atmosphere in a flask fitted with an overhead stirrer and an internal thermometer. The solution was cooled to -15° C. and N-methylmorpholine (2.13 ml, 19.41 mmol) was added followed by isobutylchloroformate (2.51 ml, 19.41 mmol) at such a rate as to maintain the internal reaction temperature at -10° to -15° C. Five minutes after the addition was completed, a solution of L-alanyl-L-proline benzyl ester hydrochloride (6.08 g, 19.41 mmol) in chloroform (70 ml) was added followed by a second portion of N-methylmorpholine (2.13 ml, 19.41 mmol) at such a rate as to maintain the internal reaction temperature at -10° to -15° C. The reaction mixture was then allowed to slowly warm to room temperatureand stirred at room temperature for 2.5 hours. Thereaction mixture was concentrated to a small residue on a rotary evaporator, diluted with chloroform (500 ml) and poured into a separatory funnel where it was washed with 0.2N hydrochloric acid (3×200 ml) and 5% sodium bicarbonate (200 ml). The organic layer was dried over magnesium sulfate, filtered, concentrated on a rotary evaporator and chromatographed using methylene chloride-methanol as an eluent to give Ac-L-prolyl-L-alanyl-L-proline benzyl ester; Rf: 0.35 (CH3OH/CH2Cl2 --7:93).

reactant | L-proline | 19.41 mmol, 3.05 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | N-methylmorpholine | 19.41 mmol, 2.13 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 19.41 mmol, 2.51 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | L-alanyl-L-proline benzyl ester hydrochloride | 19.41 mmol, 6.08 g | Cl.C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](N)C)=O)=O
reactant | N-methylmorpholine | 19.41 mmol, 2.13 ml | CN1CCOCC1 | C5H11NO
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | L-prolyl-L-alanyl-L-proline benzyl ester | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NC([C@H]1NCCC1)=O)C)=O)=O | C20H27N3O4
